US07115589B2
6-Chloro-9-isopropyl-9H-purin-2-ylamine:
To 6-chloro-9H-purin-2-ylamine (20 g, 0.12 moles) in DMF (200 mL) at −11° C. was added NaH (5.7 g, 0.14 moles, 60%) portionwise over 1 h. The mixture as stirred for 1 h, then 2-iodopropane (14.2 mL, 0.14 moles) was added dropwise. The solution was warmed to rt, stirred for 18 h, quenched with sat'd NH4Cl, and extracted with EtOAc. The combined extracts, were washed with water, sat'd NaCl, then dried over MgSO4 and filtered. Concentration yielded an oil which was purified by silica gel chromatography (60% EtOAc/Hexane) to a white solid (13.4 g, 54%): MS [M+H]+ 212; m.p. 135–136° C.

reactant | 6-chloro-9H-purin-2-ylamine | 0.12 moles, 20 g | ClC1=C2N=CNC2=NC(=N1)N | C5H4ClN5
reactant | NaH | 0.14 moles, 5.7 g | [H-].[Na+]
reactant | 2-iodopropane | 0.14 moles, 14.2 mL | IC(C)C | C3H7I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-9-isopropyl-9H-purin-2-ylamine | ClC1=C2N=CN(C2=NC(=N1)N)C(C)C | C8H10ClN5
